US05284847
7-Phenyl-thieno(2,3-b]pyrazine-2,3(1H,4H)-dione
Di-t butyl-4-phenylthiophene-2,3-dicarbamate (0.9 g crude oil from the preceding step) was dissolved in a mixture of 7 ml of acetic acid and 7 ml of diethyl oxalate and heated to reflux for three hours. While still hot, 7 ml of water was added, and the mixture stirred overnight at room temperature to precipitate 0.27 g of crude title compound. Three crystallisations from acetic acid combined with charcoal (Norit SU 18) and one from ethanol/acetic acid (1:1) produced 65 mg of pure title compound, m.p.>300° C. 1H-NMR (DMSO-D6, δ): 7.1 (s, 1H), 7.4 (m, 5H), 11.5 (br.s, 1H), 12.5 (br.s, 1H). MS: 244.

reactant | Di-t butyl-4-phenylthiophene-2,3-dicarbamate | C(C)(C)(C)OC(NC=1SC=C(C1NC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C20H26N2O4S
reactant | water | 7 ml | O | H2O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | diethyl oxalate | 7 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 7-Phenyl-thieno(2,3-b]pyrazine-2,3(1H,4H)-dione | 65 mg | C1(=CC=CC=C1)C1=CSC=2NC(C(NC21)=O)=O | C12H8N2O2S
